US05043345
5.3.B 3-(4-propoxy-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide.
A mixture of methyl iodide (0.37 ml, 6 mmol) and 3-(4-propoxy-1,2,5-thiadiazol-3-yl)pyridine (700 mg, 3.1 mmol) in acetone (10 ml) was stirred at room temperature for 18 h. The title compound precipitated from the solution and was collected by filtration to yield 0.98 g (88%).

reactant | methyl iodide | 6 mmol, 0.37 ml | CI | CH3I
reactant | 3-(4-propoxy-1,2,5-thiadiazol-3-yl)pyridine | 3.1 mmol, 700 mg | C(CC)OC=1C(=NSN1)C=1C=NC=CC1 | C10H11N3OS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(4-propoxy-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].C(CC)OC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C11H14N3OS.HI/c1-3-7-15-11-10(12-16-13-11)9-5-4-6-14(2)8-9;/h4-6,8H,3,7H2,1-2H3;1H/q+1;/p-1
